US04444583
A mixture of 12.6 g of 2.5-bis(difluoromethoxy)nitrobenzene, 1.3 g of Raney-nickel catalyst and 130 ml of dioxane is agitated in a hydrogen atmosphere for 15 hours at a temperature of 20°-25° C. The hydrogen consumption is 3.34 liters. After removal of the catalyst the mixture is evaporated to dryness, yielding 11.0 g of crude 2.5-bis(difluoromethoxy) aniline in form of a yellow-brown oil.

reactant | 2.5-bis(difluoromethoxy)nitrobenzene | 12.6 g | FC(OC1=C(C=C(C=C1)OC(F)F)[N+](=O)[O-])F | C8H5F4NO4
reactant | hydrogen | [H][H] | H2
catalyst | Raney-nickel | 1.3 g | [Ni] | Ni
solvent | dioxane | 130 ml | O1CCOCC1 | C4H8O2
product | 2.5-bis(difluoromethoxy) aniline | 11.0 g | FC(OC1=C(N)C=C(C=C1)OC(F)F)F | C8H7F4NO2
